US09126931B2
(2-Fluoropyridin-4-yl)acetonitrile
To the DMF (28 ml) solution of methanesulfonic acid (2-fluoropyridin-4-yl)methyl ester (1.16 g), sodium cyanide (0.42 g) was added and the mixture was stirred at 80° C. for 1 hr. The mixture was diluted with ethyl acetate (100 ml), and washed with 15% brine and distilled water in order. The organic layer was concentrated and purified by silica gel column (n-hexane/ethyl acetate=5/1) to obtain the title compound (278 mg, 36%).

reactant | DMF | 28 ml | CN(C)C=O | C3H7NO
reactant | methanesulfonic acid (2-fluoropyridin-4-yl)methyl ester | 1.16 g | FC1=NC=CC(=C1)COS(=O)(=O)C | C7H8FNO3S
reactant | sodium cyanide | 0.42 g | [C-]#N.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2-Fluoropyridin-4-yl)acetonitrile | 278 mg, 36% | FC1=NC=CC(=C1)CC#N | C7H5FN2
